US08703953B2
To a solution of methyl 4-(4-chloro-2-fluorophenyl)nicotinate (1 g, 3.76 mmol) in MeOH (10 mL) and water (10 mL) was added NaOH (0.602 g, 15.06 mmol) and the solution stirred at room temperature for 2 h. The volatile organic solvent was evaporated under reduced pressure. The reaction mixture was cooled to 0° C. and acidified with 50% aqueous HCl. The precipitated so formed was collected by vacuum filtration to yield 4-(4-chloro-2-fluorophenyl)nicotinic acid (0.3 g, 1.192 mmol, 30% crude yield) as an off-white solid which was carried directly into the next step. 1H NMR (400 MHz, CD3OD) δ 9.12 (s, 1H), 8.78 (d, J=5.20 Hz, 1H), 7.29-7.48 (m, 4H).

reactant | methyl 4-(4-chloro-2-fluorophenyl)nicotinate | 3.76 mmol, 1 g | ClC1=CC(=C(C=C1)C1=CC=NC=C1C(=O)OC)F | C13H9ClFNO2
reactant | NaOH | 15.06 mmol, 0.602 g | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 4-(4-chloro-2-fluorophenyl)nicotinic acid | 1.192 mmol, 0.3 g | ClC1=CC(=C(C=C1)C1=CC=NC=C1C(=O)O)F | C12H7ClFNO2
